* bank-bleed: 0.000705 F from 525 V into 8800 ohm
CB p 0 0.000705 ic=525
RD p 0 8800
.tran 0.00504075 20.163 0 0.0100815 uic
.control
set filetype=ascii
run
wrdata bleed-40kw.out v(p)
quit
.endc
.end