* bank-bleed: 0.0000264 F from 500 V into 8800 ohm
CB p 0 0.0000264 ic=500
RD p 0 8800
.tran 0.00034848 1.39392 0 0.00069696 uic
.control
set filetype=ascii
run
wrdata bleed-40kw.out v(p)
quit
.endc
.end